US07214802B2
N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-(4-furan-3-yl-[1,2,3]triazol-1-yl)-4-methyl-benzamide
To a solution of 96 mg (0.20 mmol) of furan-3-carbaldehyde (Aldrich) and dimethyl 2-oxo-1-diazopropylphosphinate (46 mg; 0.24 mmol) in 1.5 mL of MeOH was added 55.6 mg (0.402 mmol) of K2CO3. The mixture was stirred for 4 h and 58 mg (0.134 mmol) of 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide was then added followed by an additional 1 mL of MeOH and 27 mg of sodium ascorbate in 0.2 mL of water. The mixture was vigorously stirred and 0.13 mL (0.013 mmol) of 0.1 M CuSO4 was added. The head space was purged with N2, and the vessel was sealed for 20 h. The mixture was then partitioned between EtOAc and 1M HCl, and the extract was washed with saturated NaHCO3 and brine. The extract was then dried with Na2SO4, filtered, concentrated, and chromatographed (10–50% EtOAc in hexanes) to provide 57 mg (0.11 mmol; 81%) of Example 39. ES MS m/z 524 [C26H29N5O5S+H]+.

reactant | furan-3-carbaldehyde | 0.20 mmol, 96 mg | O1C=C(C=C1)C=O | C5H4O2
reactant | K2CO3 | 0.402 mmol, 55.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | 0.134 mmol, 58 mg | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | sodium ascorbate | 27 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
catalyst | CuSO4 | 0.013 mmol, 0.1 M, 0.13 mL | [O-]S(=O)(=O)[O-].[Cu+2]
solvent | MeOH | 1 mL | CO | CH4O
product | N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-(4-furan-3-yl-[1,2,3]triazol-1-yl)-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C1=COC=C1)=O)OC)NS(=O)(=O)C | C26H29N5O5S
